US04006243
[4-(1-Imidazolylmethyl)-phenyl]-(3-trifluoromethylbenzyl)-ether, Hydroperchlorate
This substance is prepared in analogy to Example 2 from 4-(1-imidazolylmethyl)-phenol and 3-chloromethylbenzotrifluoride with the use of perchloric acid.

reactant | 4-(1-imidazolylmethyl)-phenol | N1C(=NC=C1)CC1=CC=C(C=C1)O | C10H10N2O
reactant | 3-chloromethylbenzotrifluoride | ClCC=1C=C(C=CC1)C(F)(F)F | C8H6ClF3
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
product | [4-(1-Imidazolylmethyl)-phenyl]-(3-trifluoromethylbenzyl)-ether | N1C(=NC=C1)CC1=CC=C(C=C1)OCC1=CC(=CC=C1)C(F)(F)F | C18H15F3N2O
